US07411072B2
2-Chloro-5-(2-methoxy-ethylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Treat 2-(2-chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethanol (1 equivalent) with sodium hydride (2 equivalents) in a suitable dry solvent at 0° C. and stir for 15 minutes. Add dimethyl sulfate dropwise (2 equivalents) and stir at 0° C. for one hour. Quench with aqueous citric acid solution and partition between water and ethyl acetate. Dry and evaporate the organic layer. Purify the residue by silica gel chromatography to give the title compound in 82% yield

reactant | 2-(2-chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethanol | 1 equivalent | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CCO)C=C1 | C17H15ClO
reactant | sodium hydride | 2 equivalents | [H-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | 2-Chloro-5-(2-methoxy-ethylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 82% yield | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CCOC)C=C1 | C18H17ClO
